data/mechanisms/records/IMS8-EQ8.80.json
{"mechanism_id": "IMS8-EQ8.80", "species": [{"species_id": "dioxaphospholane_molecular_ion", "mapped_smiles": "[P:1]1(=[O+:2])([O:3][CH3:4])[O:5][CH:6]([CH3:7])[CH2:8][O:9]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "c3h3_radical", "mapped_smiles": "[CH2:7]=[C:6]=[CH:8]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "protonated_methyl_phosphate_ion", "mapped_smiles": "[CH3:4][O:3][P:1](=[OH+:2])([OH:5])[OH:9]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dioxaphospholane_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["c3h3_radical", "protonated_methyl_phosphate_ion"]}], "steps": [{"step_id": "step_triple_h_rearrangement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_r3H_8_80", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_triple_h_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 196, "equation": "8.80", "figure": null, "panel": null, "section": "Chapter 8, Detailed Mechanisms of Ion Fragmentation -- hydrogen rearrangements; introduced as 'An unusual example of a triple-H rearrangement is shown in Equation 8.80 (Abbott et al. 1979).'"}, "confidence": 0.7, "curator_note": "DRAWN FIGURE: a single straight reaction arrow labelled 'r3H' from 2-methoxy-4-methyl-1,3,2-dioxaphospholane 2-oxide with '+.' printed on the phosphoryl oxygen (five-membered ring O-CH(CH3)-CH2-O-P; P also carries =O+. and OCH3) to 'C3H3.' plus a phosphorus ion drawn as +OH double-bonded to P with HO, HO and OCH3 as the other three substituents. Book draws 0 arc(s) -- there is not a single curved arrow or fishhook anywhere in Equation 8.80 -- so ALL FIVE encoded moves are curator-supplied, and both the electron routing and the C3H3 isomer are curator choices, not book statements. CURATOR CHOICES, stated explicitly: (a) each of the three ring/branch carbons donates exactly one H (the CH, the CH3 and the CH2), and the three H's land one on each oxygen that ends up as an O-H in the drawn product -- the phosphoryl O becomes =O+H and the two ring oxygens become P-OH after their C-O bonds break; (b) the C3H3. neutral is encoded as the allenyl/propargyl radical CH2=C=CH. (one localized resonance form of the delocalized C3H3 radical, convention C) because that is what the chosen H-loss pattern produces; the book writes only the formula 'C3H3.' and does not draw its structure. ENCODING NOTE: none of the three migrating H's can be atom-mapped (RDKit folds a mapped explicit H into implicit valence, verified in the project container), so the five moves express the net heavy-atom bookkeeping of the eight underlying fishhooks: <1> the phosphoryl oxygen's odd electron pairs with the H arriving from the methyl carbon, and the electron that methyl carbon keeps becomes half of the new C6=C7 pi bond (compressed into one move O(2) -> bond(6,7)); <2> one electron of the C(6)-O(5) bond goes to O(5), which hands it to the H arriving from C(6), whose own leftover electron completes the C6=C7 pi bond (compressed into bond(5,6) -> bond(6,7)); <3> the other C(6)-O(5) electron and <4> one C(8)-O(9) electron form the new C6=C8 pi bond; <5> the second C(8)-O(9) electron goes to O(9) -> its O-H, while the electron C(8) keeps after losing its H stays as the radical (compressed into bond(8,9) -> atom(8)). NO PRINTED NUMBERS: Equation 8.80 shows no m/z and no abundance, so detected=false, peak status 'inferred' and no relative_intensity; m/z 112.9998 and precursor m/z 152.0233 are curator-computed monoisotopic values for the drawn structures, not book data."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 152.0233, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_phosphorus_ion_113", "species_id": "protonated_methyl_phosphate_ion", "step_id": "step_triple_h_rearrangement", "observed_mz": 112.9998, "hydrogen_shift": 3, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
